US04004009
1-methyl-5-(3'-trifluoromethylphenyl)-1H-pyrazolo [4,3-c]pyridazin-6-(5H)-one
In 225 ml. of absolute dimethylformamide (dried over molecular sieves) under a nitrogen atmosphere are dissolved 8.5 grams of 5-(1-methylhydrazino)-2-(3'-trifluoromethylphenyl)-3(2H)-pyridazinone. To this solution are added 7.1 grams of N,N-dimethylformamide dimethyl acetal and the solution is refluxed for 72 hours. The reaction is followed by thin layer chromatography The reaction mixture is then evaporated to dryness in vacuo and column chromatographed on silica gel, eluting with a mixture of benzene-chloroform (50/50), to obtain the crude title product which is then refined by preparative chromatography on a silica gel plate, eluting with chloroform to give crystalline title product, which is then washed with diethyl ether, m.p. 160°-163° C.

reactant | 5-(1-methylhydrazino)-2-(3'-trifluoromethylphenyl)-3(2H)-pyridazinone | 8.5 grams | CN(N)C1=CC(N(N=C1)C1=CC(=CC=C1)C(F)(F)F)=O | C12H11F3N4O
reactant | N,N-dimethylformamide dimethyl acetal | 7.1 grams | COC(N(C)C)OC | C5H13NO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-methyl-5-(3'-trifluoromethylphenyl)-1H-pyrazolo [4,3-c]pyridazin-6-(5H)-one | CN1N=CC2=NN(C(C=C21)=O)C2=CC(=CC=C2)C(F)(F)F | C13H9F3N4O
